US05945538
Preparation of (p-Chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile
A solution of 5-amino-4-(p-chlorophenyl)-2-(trifluoromethyl)oxazole, triflate salt (16.5 g, 0.04 mol) in dimethylformamide is treated at 10° C. with 2-chloroacrylonitrile (5.25 g, 0.06 mol) under a nitrogen atmosphere, warmed to room temperature, held at room temperature for 4 hours, and treated with a mixture of ethyl acetate and water. The phases are separated and the organic phase is washed with water and concentrated to give a wet solid residue. Flash column chromatography on silica gel, packed with 15% ethyl acetate in heptane and eluted with 20% ethyl acetate in heptane of the residue gives, on crystallization from ethyl acetate/heptane, the title product as a pale yellow solid, 7.1 g (65% yield), mp 238.0°-241.0° C., identified by NMR analysis.

reactant | 5-amino-4-(p-chlorophenyl)-2-(trifluoromethyl)oxazole, triflate salt | 0.04 mol, 16.5 g | OS(=O)(=O)C(F)(F)F.NC1=C(N=C(O1)C(F)(F)F)C1=CC=C(C=C1)Cl
reactant | 2-chloroacrylonitrile | 0.06 mol, 5.25 g | ClC(C#N)=C | C3H2ClN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | heptane | CCCCCCC | C7H16
product | (p-Chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | 65% yield | ClC1=CC=C(C=C1)C=1NC(=CC1C#N)C(F)(F)F | C12H6ClF3N2
